US08119655B2
Compound 86: 5-(3-(ethylsulfonyl)phenyl)-3,8-dimethyl-9H-pyrido[2,3-b]indole-7-carboxylic acid
5-(3-(ethylsulfonyl)phenyl)-3,8-dimethyl-7-(trifluoromethyl)-9H-pyrido[2,3-b]indole acetate (3.6 g, 7.3 mmol) was dissolved in concentrated H2SO4 (30 mL) and heated at 120° C. for 30 min. The reaction was cooled to room temperature and poured over ice affording a white precipitate. The resulting suspension was filtered, rinsed with H2O (3×30 mL) followed by IPA (3×10 mL) and dried in vacuo to 3.2 g (quant.) to give the title compound as a white solid. 1H NMR (400 MHz, DMSO-d6): δ 12.20 (s, 1H), 8.36 (s, 1H), 8.12 (s, 1H), 8.02-8.07 (m, 2H), 7.89 (t, 1H), 7.61 (s, 1H), 7.54 (s, 1H), 3.43 (q, 2H), 2.85 (s, 3H), 2.28 (s, 3H), 1.18 (t, 3H). MS (ES) [m+H] calc'd for C22H20N2O4S, 409; found 409.3.

reactant | 5-(3-(ethylsulfonyl)phenyl)-3,8-dimethyl-7-(trifluoromethyl)-9H-pyrido[2,3-b]indole acetate | 7.3 mmol, 3.6 g | C(C)(=O)O.C(C)S(=O)(=O)C=1C=C(C=CC1)C1=C2C3=C(NC2=C(C(=C1)C(F)(F)F)C)N=CC(=C3)C
solvent | H2SO4 | 30 mL | OS(=O)(=O)O | H2O4S
product | 5-(3-(ethylsulfonyl)phenyl)-3,8-dimethyl-9H-pyrido[2,3-b]indole-7-carboxylic acid | C(C)S(=O)(=O)C=1C=C(C=CC1)C1=C2C3=C(NC2=C(C(=C1)C(=O)O)C)N=CC(=C3)C | C22H20N2O4S
